US09399639B2
N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)isobutyramide
To a mixture of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.2 g, 0.41 mmol) and triethylamine (2 mL) in chloroform (10 mL) was added isobutyryl chloride (173 μA, 1.64 mmol) at rt. The reaction was stirred at rt for 16 h, then concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=1/1 to 1/2) to afford the title compound as a white solid (2 mg, 0.8%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.41 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 1.64 mmol | C(C(C)C)(=O)Cl | C4H7ClO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)isobutyramide | 2 mg, 0.8% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(C(C(C)C)=O)S(=O)(=O)CCC)F | C27H24ClF2N3O4S
